US09102591B2
2,3-dichloro-N-((4,4-difluoro-1-(4-methyl-1H-imidazol-1-yl)cyclohexyl)methyl)benzamide
From 2,3-dichlorobenzoic acid and (4,4-difluoro-1-(4-methyl-1H-imidazol-1-yl)cyclohexyl)methanamine. LCMS (MH+): m/z=402.0, tR (minutes, Method E)=0.45

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | (4,4-difluoro-1-(4-methyl-1H-imidazol-1-yl)cyclohexyl)methanamine | FC1(CCC(CC1)(N1C=NC(=C1)C)CN)F | C11H17F2N3
product | 2,3-dichloro-N-((4,4-difluoro-1-(4-methyl-1H-imidazol-1-yl)cyclohexyl)methyl)benzamide | ClC1=C(C(=O)NCC2(CCC(CC2)(F)F)N2C=NC(=C2)C)C=CC=C1Cl | C18H19Cl2F2N3O
